US07713994B2
6-bromo-7-methoxy-isoquinoline-1,3(2H,4H)-dione
2-Carboxymethyl-4-bromo-5-methoxy-benzoic acid (228 mg, 0.785 mmole) and urea (0.110 g, 1.82 mmole) is stirred and heated using an oil bath at 195° C. After one hour the mixture is cooled to room temperature and treated with water, collected by filtration, washed with water and dried to give a brown-black solid, 106 mg, (50%); MS (ES−): m/z 268.1, 270.1 (M−H).

reactant | 2-Carboxymethyl-4-bromo-5-methoxy-benzoic acid | 0.785 mmole, 228 mg | C(=O)(O)CC1=C(C(=O)O)C=C(C(=C1)Br)OC | C10H9BrO5
reactant | urea | 1.82 mmole, 0.110 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6-bromo-7-methoxy-isoquinoline-1,3(2H,4H)-dione | BrC=1C=C2CC(NC(C2=CC1OC)=O)=O | C10H8BrNO3
